US04238422
(a) Preparation of 3,4-dimethylphenyl phosphonous dichloride
A mixture of carefully dried o-xylene (29.9 g), freshly prepared anhydrous aluminium trichloride (56 g) and freshly distilled phosphorus trichloride (172.6 g) was refluxed gently, with stirring, for 2 hours. The mixture was then refluxed vigorously for a further 11/2 hours. The source of heat was removed and freshly distilled phosphoryl chloride (64.5 g) added to the mixture dropwise, with stirring, so that reflux was maintained; a white solid precipitated during the addition. The reaction mixture was allowed to cool to room temperature and dry pentane (100 ml) was added and the resultant mixture stirred for several hours, after which the precipitated solids were filtered off and washed with dry pentane. Volatile products were removed from the combined filtrates under reduced pressure, and the resulting yellow oil was fractionally distilled under reduced pressure. The required product 3,4-dimethylphenyl phosphonous dichloride (58 g) was distilled at a pressure of 0.05 mmHg at 78°-80° C. This was equivalent to a yield of 65.6% based on o-xylene. It was a colourless liquid.

reactant | aluminium trichloride | 56 g | [Cl-].[Cl-].[Cl-].[Al+3]
reactant | phosphorus trichloride | 172.6 g | P(Cl)(Cl)Cl | Cl3P
reactant | o-xylene | 29.9 g | CC=1C=CC=CC1C | C8H10
product | 3,4-dimethylphenyl phosphonous dichloride | yield of 65.6% | CC=1C=C(C=CC1C)P(Cl)Cl | C8H9Cl2P
